US05821239
4-[[(Dimethylamino)methylene]amino]-3-pyridinol N,N-dimethylcarbamate
4-[[(Dimethylamino)methylene]amino]-3-pyridinol (1.65 g) was refluxed for 1 hour in 20 ml of benzene containing 1.10 g of Et3N and 1.10 g of N,N-dimethylcarbamyl chloride. At the end of this time, the reaction mixture was applied directly to a silica column and eluted with 5% Et3N/ethyl acetate. Concentration of the product-containing fractions gave 2.05 g of chromatographically pure product which was distilled in a bulb to bulb apparatus (oven temperature=175° C.) to give analytically pure material, m.p. 64°-66° C.

reactant | 4-[[(Dimethylamino)methylene]amino]-3-pyridinol | 1.65 g | CN(C)C=NC1=C(C=NC=C1)O | C8H11N3O
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | N,N-dimethylcarbamyl chloride | 1.10 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | benzene | 20 ml, 1.10 g | C1=CC=CC=C1 | C6H6
product | 4-[[(Dimethylamino)methylene]amino]-3-pyridinol N,N-dimethylcarbamate | CN(C(=O)OC=1C=NC=CC1N=CN(C)C)C | C11H16N4O2
